US08003796B2
Step B. Preparation of benzyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate
A stirring suspension of benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate (1.97 g, 6.30 mmol), 4-hydroxypyridin-2(1H)-one (0.50 g, 4.5 mmol, Aldrich), potassium carbonate (1.43 g, 10.6 mmol, EMD) and DMF (25 mL) was heated at 140° C. for 2.5 h and then cooled to room temperature. The resulting mixture was diluted with H2O and extracted with EtOAc (2×). The organic layers were combined and washed with brine, dried over Na2SO4 and concentrated in vacuo to a light yellow oil. The oil was purified by flash chromatography (SiO2, 0 to 10% MeOH in CH2Cl2) to yield 550 mg of desired product as a white solid. MS (ESI) 329 (M+H).

reactant | benzyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | 6.30 mmol, 1.97 g | CS(=O)(=O)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H19NO5S
reactant | 4-hydroxypyridin-2(1H)-one | 4.5 mmol, 0.50 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | potassium carbonate | 10.6 mmol, 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | benzyl 4-(2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | 550 mg | O=C1NC=CC(=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H20N2O4
